US05602277
A mixture of methyl 4-(methylamino)carbonyl-3-nitrobenzoate (3.84 g, 0.0185 mol) and tin (ii) chloride (15.3 g, 0.08 mol) in ethanol (80 mL) was heated at 70° C. for 1 h. The reaction mixture was diluted with water (150 mL) and sodium bicarbonate solution was added to it to bring the pH close to 8. The mixture was extracted with ethyl acetate and the organic layer washed with water and brine and dried over sodium sulphate. After filtration, the solution was concentrated and the residue was recrystallized from ethyl acetate-hexane to give 2.16 g (64%) of methyl 3-amino-4-(methylamino)carbonylbenzoate as tan needles, mp 167°-168° C.

reactant | methyl 4-(methylamino)carbonyl-3-nitrobenzoate | 0.0185 mol, 3.84 g | CNC(=O)C1=C(C=C(C(=O)OC)C=C1)[N+](=O)[O-] | C10H10N2O5
reactant | tin (ii) chloride | 0.08 mol, 15.3 g | [Sn](Cl)Cl
solvent | ethanol | 80 mL | C(C)O | C2H6O
solvent | water | 150 mL | O | H2O
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | methyl 3-amino-4-(methylamino)carbonylbenzoate | 2.16 g, 64% | NC=1C=C(C(=O)OC)C=CC1C(=O)NC | C10H12N2O3
